US05696272
Preparation of 2-Butyl-5-chloroimidazole-4-carbaldehyde
Phosphorus oxychloride (43.80 g, mmol) was added to a suspension of (pentanimidoylamino)acetic acid (15.82 g, 100 mmol) in toluene (75 ml) in the course of 5 minutes. The mixture was heated to 80° C. and then admixed with N,N-dimethylformamide (20.57 g, 280 mmol) in the course of 7 minutes. The temperature rose in the course of this to 96° C. After stirring for 2 hours at 100° C., the mixture was cooled to 30° C. The reaction mixture was then poured with stirring into 80 ml of water in such a manner that the temperature could always be kept below 30° C. After addition of ethyl acetate (80 ml) and Celite (5 g), the pH of the mixture was adjusted to 1.2 with 30 percent strength sodium hydroxide solution. The mixture was filtered, then phase separation took place at 30° C. The organic phase was washed twice with water and then concentrated to dryness. The title product was obtained in a yield of 13.39 g (HPLC purity 81.4 percent), 50 percent based on (pentanimidoylamino)acetic acid.

reactant | Phosphorus oxychloride | 43.80 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (pentanimidoylamino)acetic acid | 100 mmol, 15.82 g | C(CCCC)(=N)NCC(=O)O | C7H14N2O2
reactant | N,N-dimethylformamide | 280 mmol, 20.57 g | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 80 ml | O | H2O
product | 2-Butyl-5-chloroimidazole-4-carbaldehyde | C(CCC)C=1NC(=C(N1)C=O)Cl | C8H11ClN2O
